US06790977B2
To a 3-necked 500 mL round bottom flask equipped with a mechanical stirrer and a condenser, 3-methoxy-4-hydroxy benzoaldehyde (50.2 g, 0.33 mole), hydroxylamine hydrochloride (25.5 g, 0.37 mole), and N,N′-dimethylformamide (40 mL) were successively added at 25° C., followed by heating in an oil bath at 140° C. for 1 hour. The reaction mixture was allowed to cool to 85° C., and water (250 mL) was added to yield 3-methoxy-4-hydroxybenzonitrile. The reaction mixture was further cooled to 10° C. for a complete precipitation, and the resulting solid was then isolated by filtration and dried under reduced pressure to yield a product as an off-white solid with a yield of 95% and a purity of higher than 99% as indicated by HPLC analysis.

reactant | 3-methoxy-4-hydroxy benzoaldehyde | 0.33 mole, 50.2 g | COC=1C=C(C=O)C=CC1O | C8H8O3
reactant | hydroxylamine hydrochloride | 0.37 mole, 25.5 g | Cl.NO
reactant | N,N′-dimethylformamide | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 250 mL | O | H2O
product | 3-methoxy-4-hydroxybenzonitrile | COC=1C=C(C#N)C=CC1O | C8H7NO2
